US06562989B2
2-methyl-4′-methoxybiphenyl (Table 17, Entry 2)
4-Chloroanisole (74 mg, 0.52 mmol) reacted with 2-methylphenylboronic acid (102 mg, 0.75 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.50 mmol) in toluene at 80° C. to give the title compound (104 mg, 99%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.35-7.31 (m, 6H), 7.04 (d, 2H, J=8.8 Hz), 3.92 (s, 3H), 2.37 (s, 3H). 13C{1H}-NMR (125 MHz, CDCl3): δ 158.43, 141.47, 135.40, 134.28, 130.25, 130.19, 129.85, 126.91, 125.71, 113.41, 55.19, 20.52. GC/MS(EI): m/z 198 (M+).

reactant | 4-Chloroanisole | 0.52 mmol, 74 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 2-methylphenylboronic acid | 0.75 mmol, 102 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 1.50 mmol, 87 mg | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4′-methoxybiphenyl | 104 mg, 99% | CC1=C(C=CC=C1)C1=CC=C(C=C1)OC | C14H14O
